US04742052
Succinic acid mono-o-nitrobenzyl ester was prepared from succinic anhydride and o-nitrobenzyl alcohol by the procedure similar to that described in Example 174.

reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | o-nitrobenzyl alcohol | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
product | Succinic acid mono-o-nitrobenzyl ester | [N+](=O)([O-])C1=C(COC(CCC(=O)O)=O)C=CC=C1 | C11H11NO6
